US05498609
To a solution of 7-chloro-5-(2-methanesulfonyloxyethoxy)-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.55 g) in dimethylformamide (10 ml) is added potassium phthalimide (0.2 g), and the mixture is stirred at 110° C. for one hour. The reaction solution is poured into ice-water, and the mixture is extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-5-(2-phthalimidoethoxy)-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.4 g) as colorless amorphous.

reactant | 7-chloro-5-(2-methanesulfonyloxyethoxy)-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.55 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)OCCOS(=O)(=O)C)C1 | C27H28ClN3O6S
reactant | potassium phthalimide | 0.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-chloro-5-(2-phthalimidoethoxy)-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.4 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)OCCN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C34H29ClN4O5
